US04914087
(Table 6, example) N-BOC-homo phenylalaninal
2.93 g of N-BOC homo phenylalanine methyl ester (10 mmol) are dissolved in 25 ml of absolute toluene under nitrogen and the solution is cooled to -80° C. 20 ml of -20% strength DIBA in toluene are added dropwise and the temperature maintained. Since the reaction was not complete after 1.5 h a further 3 ml of 20% strength DIBA were added.

reactant | N-BOC homo phenylalanine methyl ester | 10 mmol, 2.93 g | COC([C@@H](NC(=O)OC(C)(C)C)CCC1=CC=CC=C1)=O | C16H23NO4
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-BOC-homo phenylalaninal | C(=O)(OC(C)(C)C)N[C@@H](CCC1=CC=CC=C1)C=O | C15H21NO3
